US08044067B2
A solution of 2-(3,5-dimethoxyphenyl)-2-(phenyl-sulfanyl)acetic acid (6.0 g) in dichloromethane (50 ml) was treated with 1,1′-carbonyldiimidazole (3.24 g) at room temperature for 2 hours. A solution of N-methyl-3-methoxy-benzylamine (3.4 g) in dichloromethane (15 ml) was added and the stirring was continued for one hour. The reaction mixture was washed with aqueous hydrochloric acid (1M, 50 ml) and aqueous sodium hydroxide (1M, 50 ml). The organic phase was dried and concentrated to dryness leaving crude N-(3-methoxy-benzyl)-N-methyl-2-(3,5-dimetoxyphenyl)-2-(phenylsulfanyl)-acetamide (9.1 g) as a viscous oil.

reactant | 2-(3,5-dimethoxyphenyl)-2-(phenyl-sulfanyl)acetic acid | 6.0 g | COC=1C=C(C=C(C1)OC)C(C(=O)O)SC1=CC=CC=C1 | C16H16O4S
reactant | 1,1′-carbonyldiimidazole | 3.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-methyl-3-methoxy-benzylamine | 3.4 g | CNCC1=CC(=CC=C1)OC | C9H13NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-(3-methoxy-benzyl)-N-methyl-2-(3,5-dimetoxyphenyl)-2-(phenylsulfanyl)-acetamide | 9.1 g | COC=1C=C(CN(C(C(SC2=CC=CC=C2)C2=CC(=CC(=C2)OC)OC)=O)C)C=CC1 | C25H27NO4S
